US08134007B2
3-[2-(Trifluoromethoxy)phenyl]pyridine-2,6-diamine
To a suspension of 3-iodopyridine-2,6-diamine (5 g, 21 mmol), 2-(trifluoromethoxy)phenyl boronic acid (4.82 g, 23 mmol) and sodium carbonate (2.48 g, 23 mmol) in ethanol (25 ml) and water (25 ml) was added tris(dibenzylideneacetone)dipalladium (0.292 g, 0.319 mmol) followed by tri-tert-butylphosphine (1M solution in toluene, 0.957 ml, 0.957 mmol). The reaction was heated to 78° C. for 16 hours before cooling to room temperature and addition of isopropylacetate (50 ml). The bi-phasic mixture was filtered through Arbocel™ and the filter cake washed with isopropylacetate (2×25 ml). The layers were separated and the organic phase washed with half saturated aqueous sodium hydrogen carbonate solution (50 ml) and water (2×25 ml) before concentration in vacuo. Toluene (2×25 ml) was added during the concentration process and evaporation continued to dryness. The crude residue was purified using silica gel column chromatography (Biotage™) eluting with isopropanol:toluene 5:95 to furnish the title compound as a solid, 90%.

reactant | 3-iodopyridine-2,6-diamine | 21 mmol, 5 g | IC=1C(=NC(=CC1)N)N | C5H6IN3
reactant | 2-(trifluoromethoxy)phenyl boronic acid | 23 mmol, 4.82 g | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 23 mmol, 2.48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-tert-butylphosphine | 0.957 mmol, 1M, 0.957 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | isopropylacetate | 50 ml | C(C)(C)OC(C)=O | C5H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.319 mmol, 0.292 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[2-(Trifluoromethoxy)phenyl]pyridine-2,6-diamine | FC(OC1=C(C=CC=C1)C=1C(=NC(=CC1)N)N)(F)F | C12H10F3N3O
